Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
 ___ year old ___ female with a PMH HTN, s/p 
thyroidectomy and C-section, chronic constipation, who presents 
with abdominal pain.
Patient is ___ speaking, and the interview was conducted via 
phone interpreter.  Patient reports that on ___ (2 days 
prior to admission), she developed pain on the right side of her 
abdomen, which radiated to around her bellybutton.  This was 
associated with fevers and chills, which have since resolved.  
Pain was intermittent, severe at times, also associated with 
nausea.  No vomiting or diarrhea.  Patient notes that she 
normally has constipation, and her last bowel movement was ___ 
days ago, which is normal for her.  She is also had a poor 
appetite.  She presented to her PCPs office, who referred her to 
the ED.

Per review of records, patient has a history of thyroid cancer 
diagnosed in ___ and has undergone a total thyroidectomy.

In the ED:

Initial vital signs were notable for: T 99.3, HR 61, BP 126/60, 
RR 18, 98% RA 

Exam notable for: normo-active bowel sounds, involuntary 
guarding, TTP with rebound over RLQ, positive Rovsing.

Labs were notable for:
- CBC: WBC 10.0, Hgb 12.5, Plt 151

- Lytes:
138 / 102 / 17  
------------- 93 
4.5 \ 21 \ 0.9 

- LFTs: AST: 22  ALT: 11 AP: 78 Tbili: 0.7 Alb: 4.3 
- lipase 26

- lactate 1.2

Studies performed include: CT a/p with:  Findings most 
suggestive of colitis of the cecum and proximal ascending colon 
and suspected secondary, reactive changes of the appendix. No 
extraluminal air nor drainable collection

Surgery was consulted given concern for appendicitis, but felt 
that imaging was not consistent. Recommended medical admission, 
NPO, IVF, antibiotics, stool studies, c diff, and c-scope as 
outpatient

Patient was given:
___ 17:52 IVF  NS  150 mL/hr 
___ 17:52 PO Acetaminophen 1000 mg 
___ 23:02 IV CefTRIAXone 1 gm 
___ 23:49 IV MetroNIDAZOLE (500 mg ordered) 

Vitals on transfer: T 97.8, HR 52, BP 116/50, RR 18, 98% RA 

Upon arrival to the floor, patient reports that her pain is 
improved.  She is relieved that she does not have appendicitis.  
She is very thirsty, and would like to try drinking some water.

 
Past Medical History:
- thyroid cancer s/p thyroidectomy 
- hypertension
- hyperlipidemia 
- asthma
- chronic back pain
- benign breast lesion removed in ___ 
 
Social History:
___
Family History:
Daughter has ___ disease and is on levothyroxine and 
maternal grandmother had hyperthyroidism.
 
Physical Exam:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.  
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended. No pain with palpation of left 
side. With palpation of RLQ has pain both in RLQ and LLQ. No 
rebound tenderness.  Bowel sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
- CBC: WBC 10.0, Hgb 12.5, Plt 151

- Lytes:
138 / 102 / 17  
------------- 93 
4.5 \ 21 \ 0.9 

- LFTs: AST: 22  ALT: 11 AP: 78 Tbili: 0.7 Alb: 4.3 
- lipase 26

- lactate 1.2

MICRO: Reviewed in OMR, significant for:
- ___ blood culture x2 - pending

IMAGING: Reviewed in ___, significant for:
___ CT a/p w/ contrast:
1. Findings most suggestive of colitis of the cecum and proximal 
ascending colon and suspected secondary, reactive changes of the 
appendix.  No extraluminal air nor drainable collection. 
2. Renal hypodensity on the left with questionable enhancement 
of the wall for which nonurgent renal MRI is suggested to 
further evaluate. 
3. Enhancement pattern of the uterus raising the possibility of 
endometrial thickening.  Nonurgent pelvic ultrasound is 
suggested in this postmenopausal patient. 
  
RECOMMENDATION(S):  Nonurgent MRI of the kidneys. Nonurgent 
pelvic ultrasound. 

___ 05:45AM BLOOD WBC-7.3 RBC-3.86* Hgb-10.9* Hct-32.9* 
MCV-85 MCH-28.2 MCHC-33.1 RDW-13.2 RDWSD-41.1 Plt ___
___ 05:45AM BLOOD Glucose-73 UreaN-13 Creat-0.7 Na-141 
K-4.1 Cl-105 HCO3-21* AnGap-15
 
Brief Hospital Course:
Ms. ___ is a ___ year old ___ female with a PMH
HTN, s/p thyroidectomy and C-section, chronic constipation, who
presents with abdominal pain and evidence of colitis on CT scan. 


ACUTE/ACTIVE PROBLEMS:
# Abdominal pain
# Colitis 
#constipation-chronic
Patient presenting with 2 days of abdominal pain, found to have
evidence of colitis on CT scan.  She remained afebrile without 
leukocytosis.  LFTs were normal.  Evaluated by surgery in the 
emergency department to comment on her appendix findings on CT 
and surgery and did not feel that pt had appendicitis nor need 
surgical intervention. She improved with conservative 
management. Her diet was advanced to regular on the day of 
discharge and she had minimal pain. She was empirically treated 
with cipro and flagyl which were discontinued on discharge given 
her clinical improvement and lack of fever, leukocytosis or 
diarrhea. Of note, pt does report chronic constipation in the 
outpt setting. She was advised to take some stool 
softeners/laxatives prn. She was advised to discuss with you the 
need for consideration of colonoscopy and/or GI referral for 
constipation and recent colitis. 
 

CHRONIC/STABLE PROBLEMS:
# History of thyroid cancer s/p thyroidectomy-continued 
levothyroxine

# Hypertension-continued home meds 

# Health maintenance 
continued home aspirin 81mg. continued home vit D 2000mg daily 

TRANSITIONAL ISSUES
# Renal hypodensity - seen on CT a/p
*****nonurgent renal MRI is suggested to further evaluate. 
Discussed
with pt and daughter. 

# ?Endometrial thickening - seen on CT a/p 
***recommended to have nonurgent pelvic ultrasound to further
evaluate. Discussed with pt and daughter. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Vitamin D ___ UNIT PO DAILY 
3. Verapamil SR 240 mg PO Q24H 
4. Rosuvastatin Calcium 10 mg PO QPM 
5. Levothyroxine Sodium 100 mcg PO DAILY 
6. Atacand (candesartan) 8 mg oral DAILY 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild/Fever 
you can purchase over the counter. Take as directed.  
2.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
you can purchase over the counter   
3.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
you can purchase over the counter   
4.  Aspirin 81 mg PO DAILY  
5.  Atacand (candesartan) 8 mg oral DAILY  
6.  Levothyroxine Sodium 100 mcg PO DAILY  
7.  Rosuvastatin Calcium 10 mg PO QPM  
8.  Verapamil SR 240 mg PO Q24H  
9.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Colitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to ___ with inflammation in your large 
intestine (colitis). This is most likely due to infection. You 
improved with antibiotics and were able to eat and drink 
normally. The antibiotics were stopped at the time of discharge. 

Please discuss with your regular doctor the need for a referral 
to see a gastroenterologist for your constipation as well as to 
consider a colonoscopy to further evaluate your colitis.  

For your colitis, you may purchase Colace and senna over the 
counter. If constipations persists despite this, you can 
purchase miralax and/or dulcolax

As we discussed, your CT scan showed a small "hypodensity on 
your L.kidney and a non urgent MRI was recommended. In addition, 
you also had the possibility of endometrial thickening (uterus) 
and a non urgent pelvic u/s was recommended. Please discuss the 
timing of these studies with your PCP.   

 
Followup Instructions:
___